US04675320
Using the method of Example 1, 5-bromomethyl-2-nitro-3-phenylbenzofuran is reacted with 3-(N,N-diethylamino)propylamine in ethanol to provide light tan crystals of 5-[3-(N,N-diethylamino)propylaminomethyl]-2-nitro-3-phenylbenzofuran dihydrochloridemonohydrate, m.p. 143°-150° C., having the structure

reactant | 5-bromomethyl-2-nitro-3-phenylbenzofuran | BrCC=1C=CC2=C(C(=C(O2)[N+](=O)[O-])C2=CC=CC=C2)C1 | C15H10BrNO3
reactant | 3-(N,N-diethylamino)propylamine | C(C)N(CC)CCCN | C7H18N2
solvent | ethanol | C(C)O | C2H6O
product | 5-[3-(N,N-diethylamino)propylaminomethyl]-2-nitro-3-phenylbenzofuran | C(C)N(CC)CCCNCC=1C=CC2=C(C(=C(O2)[N+](=O)[O-])C2=CC=CC=C2)C1 | C22H27N3O3
